US04588722
A mixture of 7.7 parts of 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide, 20 parts of acetic acid anhydride and 80 parts of water was stirred for 4 hours at 100° C. Water was added and the whole was alkalized with ammonium hydroxide. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and recrystallized from acetonitrile, yielding 7.7 parts of 2-(acetylamino)-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide; mp. 170.9° C. (compound 51).

reactant | 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide | NC1=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C28H31FN6O
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Water | O | H2O
product | 2-(acetylamino)-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]benzamide | C(C)(=O)NC1=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C30H33FN6O2
